US08859580B2
1-Methyl-10-aza-tricyclo[7.4.1.0*2,7*]tetradeca-2,4,6-triene
Trifluoromethanesulfonic acid (2.5 mL) is added to a solution of 7-benzyl-5-methyl-2,3,4,7-tetrahydro-azepine-1-carboxylic acid tert-butyl ester (0.30 g) in dichloromethane (5 mL) chilled in an ice bath. The ice bath is removed and the solution is stirred at room temperature for 5 h. Then, ice-cold water and aqueous K2CO3 solution are added and the resulting mixture is extracted with ethyl acetate. The combined extracts are dried (Na2SO4), the solvent is evaporated, and the residue is purified by chromatography on silica gel (dichloroemethane/methanol 99:1->9:1).

reactant | Trifluoromethanesulfonic acid | 2.5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 7-benzyl-5-methyl-2,3,4,7-tetrahydro-azepine-1-carboxylic acid tert-butyl ester | 0.30 g | C(C)(C)(C)OC(=O)N1CCCC(=CC1CC1=CC=CC=C1)C | C19H27NO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-Methyl-10-aza-tricyclo[7.4.1.0*2,7*]tetradeca-2,4,6-triene | CC12C3=CC=CC=C3CC(NCCC1)C2 | C14H19N
